US05627198
tert-Butyl [5-(phenylcarbonyl) thien-2-yl]carbamate:
Triethylamine (0.72 ml, 5.2 mmol) and diphenylphosphoryl azide (1.1 ml, 5.1 mmol) are added to 5-(phenylcarbonyl)-thiophene-2-carboxylic acid (0.99 g, 4.3 mmol) in 40 ml of absolute tert-butanol. The reaction mixture is boiled under reflux for 5 hours. The solvent is distilled off. The residue is taken up in ethyl acetate and washed with water. The organic phase is dried over magnesium sulfate and filtered and the solvent is distilled off. The solid which remains is purified by flash chromatography (eluent: 25% v/v ethyl acetate in petroleum ether (40/60)).

reactant | Triethylamine | 5.2 mmol, 0.72 ml | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 5.1 mmol, 1.1 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | 5-(phenylcarbonyl)-thiophene-2-carboxylic acid | 4.3 mmol, 0.99 g | C1(=CC=CC=C1)C(=O)C1=CC=C(S1)C(=O)O | C12H8O3S
reactant | tert-butanol | 40 ml | C(C)(C)(C)O | C4H10O
product | tert-Butyl [5-(phenylcarbonyl) thien-2-yl]carbamate | C1(=CC=CC=C1)C(=O)C1=CC=C(S1)NC(OC(C)(C)C)=O | C16H17NO3S
